US09359359B2
To a solution of 3-(3-(trifluoromethoxy)phenyl)prop-2-yn-1-ol (0.3 g, 1.39 mmol) in THF (10 mL) was added LAH (63 mg, 1.68 mmol) portionwise at 0° C. The reaction was stirred at 0° C. for 3 h. The reaction was carefully quenched by dropwise addition of ethyl acetate at 0° C. and the mixture was partitioned between ethyl acetate and water. The combined organic layer was dried over sodium sulfate, filtered and concentrated to give a crude product which was purified by column chromatography eluting with ethyl acetate/petroleum ether (1:4 to 1:1) to give 3-(3-(trifluoromethoxy)phenyl)propan-1-ol (0.26 g, 85.2%) as a yellow oil which was used without purification. 1H-NMR (CD3OD) δ 7.37-7.39(d, 1H), 7.31-7.35(m, 1H), 7.15-7.17 (d, 1H), 4.07-4.11(t, 2H), 2.72-2.76(t, 2H), 1.83-1.90(m, 2H).

reactant | 3-(3-(trifluoromethoxy)phenyl)prop-2-yn-1-ol | 1.39 mmol, 0.3 g | FC(OC=1C=C(C=CC1)C#CCO)(F)F | C10H7F3O2
reactant | LAH | 1.68 mmol, 63 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-(3-(trifluoromethoxy)phenyl)propan-1-ol | 0.26 g, 85.2% | FC(OC=1C=C(C=CC1)CCCO)(F)F | C10H11F3O2
